US07696229B2
2. Synthesis of 1H-indol-3-yl acetate
Into a 500 mL round bottom flask was placed a solution of 3-iodo-1H-indole (23 g, 94.65 mmol) in acetic acid (300 mL). To the mixture was added CH3COOAg (31.6 g, 189.22 mmol). The resulting solution was allowed to react, with stirring, for 1 hour while the temperature was maintained at 90° C. in a bath of oil. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:1). A filtration was performed. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. The resulting solution was dissolved with 100 mL of ethyl acetate. The resulting mixture was washed 2 times with 100 mL of NaCl(aq.). The final product was purified by recrystallization from MeOH/H2O in the ratio 2:3. This resulted in 8.5 g (41%) of 1H-indol-3-yl acetate as a dark purple solid.

reactant | 3-iodo-1H-indole | 94.65 mmol, 23 g | IC1=CNC2=CC=CC=C12 | C8H6IN
reactant | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 1H-indol-3-yl acetate | C(C)(=O)OC1=CNC2=CC=CC=C12 | C10H9NO2
